US06656956B2
f) N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-(naphth-1-ylmethyl)-2-(4-phenylamino-piperid-1-yl)-acetamide
A solution of 2.1 g (4.3 mmol) of N-{2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-(naphth-1-ylmethyl)-2-chloroacetamide, 1.5 g (6.0 mmol) of 4-phenylamino-1-piperidine and 2.2 mL of N-methylmorpholine in 15 mL of dimethylformamide was stirred for 8 hours at 70-80° C. The mixture was then poured onto ice, extracted with ethyl acetate and washed with water, dried and distilled off. The product was chromatographed on silica gel.

reactant | N-{2-[2-(4-cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-(naphth-1-ylmethyl)-2-chloroacetamide | 4.3 mmol, 2.1 g | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)N(C(CCl)=O)CC2=CC=CC1=CC=CC=C21 | C30H25ClN4O
reactant | N-methylmorpholine | 2.2 mL | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-(naphth-1-ylmethyl)-2-(4-phenylamino-piperid-1-yl)-acetamide | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)N(C(CN2CCC(CC2)NC2=CC=CC=C2)=O)CC2=CC=CC1=CC=CC=C21 | C41H40N6O
